** sch_path: /foss/designs/pixel/SRlatch.sch
.subckt SRlatch D Q GND CLK VDD QB
*.PININFO D:B CLK:B VDD:B GND:B Q:B QB:B
x1 VDD net1 CLK D GND NAND
x2 VDD Q QB net1 GND NAND
x3 VDD net2 net3 CLK GND NAND
x4 VDD QB net2 Q GND NAND
x5 VDD D net3 GND inv
.ends

* expanding   symbol:  pixel/NAND.sym # of pins=5
** sym_path: /foss/designs/pixel/NAND.sym
** sch_path: /foss/designs/pixel/NAND.sch
.subckt NAND VDD VOUT B A GND
*.PININFO A:B B:B GND:B VDD:B VOUT:B
M1 VOUT B VDD VDD pfet_03v3 L=0.28u W=0.84u nf=1 m=1
M2 VOUT A VDD VDD pfet_03v3 L=0.28u W=0.84u nf=1 m=1
M3 VOUT B net1 GND nfet_03v3 L=0.28u W=0.42u nf=1 m=1
M4 net1 A GND GND nfet_03v3 L=0.28u W=0.42u nf=1 m=1
.ends


* expanding   symbol:  pixel/inv.sym # of pins=4
** sym_path: /foss/designs/pixel/inv.sym
** sch_path: /foss/designs/pixel/inv.sch
.subckt inv vdd vin vout vss
*.PININFO vin:B vout:B vdd:B vss:B
M1 vout vin vss vss nfet_03v3 L=0.28u W=0.42u nf=1 m=1
M2 vout vin vdd vdd pfet_03v3 L=0.28u W=0.84u nf=1 m=1
.ends

