* Extracted by KLayout with GF180MCU LVS runset on : 16/11/2025 00:41

.SUBCKT TG GND VDD SW IN OUT SWB
M$1 OUT SWB IN VDD pfet_03v3 L=1U W=2U AS=1.3P AD=1.3P PS=5.3U PD=5.3U
M$2 OUT SW IN GND nfet_03v3 L=1U W=1U AS=0.61P AD=0.61P PS=3.22U PD=3.22U
.ENDS TG
